US08278331B2
2-Chloro-4-hydroxypyridine (0.239 g, 1.843 mmol) was dissolved in DMF (18.43 ml) and potassium t-butoxide (0.290 g, 2.58 mmol) was added. The solution was degassed for several minutes, and then 5-bromo-4-methyl-2-nitropyridine (0.4 g, 1.843 mmol) was added. The mixture was heated at 65° C. for 70 hours under argon and then at 80° C. for 24 hours. The reaction mixture was cooled to RT, diluted with ethyl acetate (150 mL), washed with water (75 mL), 10% aqueous LiCl (2×75 mL), saturated aqueous bicarbonate (75 mL) and brine (75 mL), dried (MgSO4), evaporated and purified via silica gel chromatography (ethyl acetate/hexanes) to yield 2-chloro-4-(4-methyl-6-nitropyridin-3-yloxy)pyridine as a yellow solid (0.087 g, 18% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.49 (s, 1H), 8.47 (s, 1H), 8.35 (d, 1H), 7.24 (d, 1H), 7.12 (dd, 1H), 2.31 (s, 3H); MS (ESI) m/z: 266.0 (M+H+).

reactant | 2-Chloro-4-hydroxypyridine | 1.843 mmol, 0.239 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | potassium t-butoxide | 2.58 mmol, 0.290 g | CC(C)([O-])C.[K+]
reactant | 5-bromo-4-methyl-2-nitropyridine | 1.843 mmol, 0.4 g | BrC=1C(=CC(=NC1)[N+](=O)[O-])C | C6H5BrN2O2
solvent | DMF | 18.43 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-(4-methyl-6-nitropyridin-3-yloxy)pyridine | 0.087 g, 18% yield | ClC1=NC=CC(=C1)OC=1C=NC(=CC1C)[N+](=O)[O-] | C11H8ClN3O3
